US07250440B2
1-(4-Benzyloxyphenyl)-2-methyl-1H-indole
To a mixture of 2-methylindole (3.28 g, 25 mmol), 4-benzyloxy iodobenzene (7.76 g, 25 mmol), potassium carbonate (2.65 g, 25 mmol), and N-methylpyrrolidinone (250 mL) was added copper (I) bromide (0.5 g, 3.5 mmol). The stirred solution was heated to 180° C. and maintained for 18 hr. The reaction mixture was cooled, poured onto ice and extracted with ethyl acetate. After washing the organic layer with water and brine, and drying over anhydrous MgSO4 the solvent was removed to yield a dark liquid. Purification by silica gel chromatography (2% ethyl acetate-hexanes) provided the title compound as a white solid (30%): mp 95-96° C.; 1H NMR (DMSO-d6): δ 2.24 (3H, s), 5.19 (2H, s), 6.38 (1H, s), 6.93-7.04 (3H, m), 7.20 (2H, d, J=11.9 Hz), 7.23 (2H, d, J=3.1Hz), 7.32-7.53 (8H, m); MS m/z (M+H)+ 314: Anal. for C22H19NO 0.1H2O: Calc'd: C, 83.83; H, 6.14; N, 4.44. Found: C, 83.84; H, 6.18; N, 4.29.

reactant | 2-methylindole | 25 mmol, 3.28 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | 4-benzyloxy iodobenzene | 25 mmol, 7.76 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)I | C13H11IO
reactant | potassium carbonate | 25 mmol, 2.65 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper (I) bromide | 3.5 mmol, 0.5 g | [Cu]Br
solvent | N-methylpyrrolidinone | 250 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(4-Benzyloxyphenyl)-2-methyl-1H-indole | 30% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(=CC2=CC=CC=C12)C | C22H19NO
